US08431575B2
A solution of trans-N-{4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-formamide in anhydrous THF at 0° C. may be treated with borane-THF complex in THF (1 M, excess). The reaction may be allowed to come to room temperature and may be monitored by LCMS until the reaction is complete. The reaction may be quenched with MeOH and the solvents may be removed under reduced pressure. The crude product may be purified by flash chromatography using with 1-5% (2N NH3 in MeOH) in DCM to give trans-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-methyl-amine. The neutral amine may be treated with 2N HCl in diethyl ether and DCM. The volatiles may be removed under reduced pressure and the salt may be triturated with diethyl ether and filtered to provide the title compound. LCMS: m/z 439 [M+1].

reactant | trans-N-{4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-formamide | C(CCC)C1=C(C=C(N=N1)O[C@@H]1CC[C@H](CC1)NC=O)C1=CC=C(C=C1)OC1CCCCC1 | C27H37N3O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | trans-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-methyl-amine | C(CCC)C1=C(C=C(N=N1)O[C@@H]1CC[C@H](CC1)NC)C1=CC=C(C=C1)OC1CCCCC1 | C27H39N3O2
